US04818819
To a mixture of 0.92 g of of 4-bromobenzoyl chloride and 1.0 g of diethyl L-glutamate in 50 ml to dry methylene chloride is added 1.16 ml of triethylamine. The reaction mixture is stirred overnight under nitrogen. After a standard workup, the methylene chloride solution is concentrated under reduced pressure, and the residue recrystallized from hexanes to give 0.68 g (46%) of analytically pure diethyl N-(4-bromobenzoyl)-L-glutamate as a white solid: m.p. 82.5°-83.5° C.; NMR (CDCl3, 300 MHz) delta 1.26 (t, 3H, J=6.9 Hz), 1.33 (t, 3H, J=6.9 Hz), 2.11°-2.60 (m, 4H), 4.14 (q, 2H, J=6.9 Hz), 4.27 (q, 2H, J=6.9 Hz) 4.78 (m, 1H), 7.14 (d, 1H, J=7.2 Hz), 7.61 (d, 2H, J=8.4 Hz), 7.73 (d, 2H, J= 8.4 Hz); IR (KBr) 3320, 2980, 1745, 1720, 1635, 1520, 1375, 1300, and 1200 cm-1.

reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | diethyl L-glutamate | 1.0 g | N[C@@H](CCC(=O)OCC)C(=O)OCC | C9H17NO4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1.16 ml | C(C)N(CC)CC | C6H15N
product | diethyl N-(4-bromobenzoyl)-L-glutamate | BrC1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C16H20BrNO5
